US07846933B2
4-(2-Ethoxycarbonylpyridin-4-yl)-1-(2-cyanobenzyl)-3-(4-fluorophenyl)-4-imidazolin-2-one
In 20 ml of ethanol were suspended 1 g of 4-(2-chloropyridin-4-yl)-3-(4-fluorophenyl)-1-(2-cyanobenzyl)-4-imidazolin-2-one [Compound of Reference example 1(6)], 55 mg of palladium acetate, 137 mg of 1,1′-bis(diphenylphosphino)ferrocene and 608 mg of sodium acetate, the mixture was stirred under carbon monoxide atmosphere at 80° C. for 12 hours. The reaction mixture was concentrated under reduced pressure, the residue was suspended in ethyl acetate, treated with activated charcoal and then filtered. After concentration under reduced pressure, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:2) to give 887 mg of the title compound as colorless crystal. Melting point: 164° C.

reactant | 4-(2-chloropyridin-4-yl)-3-(4-fluorophenyl)-1-(2-cyanobenzyl)-4-imidazolin-2-one | 1 g | ClC1=NC=CC(=C1)C=1N(C(N(C1)CC1=C(C=CC=C1)C#N)=O)C1=CC=C(C=C1)F | C22H14ClFN4O
reactant | sodium acetate | 608 mg | C(C)(=O)[O-].[Na+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium acetate | 55 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 137 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-(2-Ethoxycarbonylpyridin-4-yl)-1-(2-cyanobenzyl)-3-(4-fluorophenyl)-4-imidazolin-2-one | 887 mg | C(C)OC(=O)C1=NC=CC(=C1)C=1N(C(N(C1)CC1=C(C=CC=C1)C#N)=O)C1=CC=C(C=C1)F | C25H19FN4O3
